US05091432
Synthesis of 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)-1-(1-phenyl-4-oxo-1,3,8-triazaspiro[4.5]dec-8-yl)-propanone (AIT-0098)
0.300 g (0.9111 mmol) of 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)-propanoic acid, 4-nitrophenyl ester (AIT-0081) and 0.212 g (0.9165 mmol) of 1-phenyl-1,3,8-triazaspiro[4.5]decane-4-one were placed into a 10 ml round bottom flask equipped with a magnetic stirring bar. 2 ml of dimethylsulfoxide (dried over barium oxide) was added and the solution was stirred in a closed flask at room temperature for 20 hours. The reaction was allowed to proceed overnight to ensure completion. The solvent was removed with vacuum using gentle heat (approximately 45 deg.). 10 ml ethyl acetate was added to the stirring residue (oil) and a copious white precipitate formed immediately. The solution was stirred for 30 minutes to ensure homogeneity. Upon filtration, washing with ethyl acetate, and drying, 345 mg of a free flowing white solid, 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)-1-(1-phenyl-4-oxo-1,3,8-triazaspiro[4.5]dec-8-yl)propanone (AIT-0098) was obtained. Yield: 90%.

reactant | 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)-propanoic acid, 4-nitrophenyl ester | 0.9111 mmol, 0.300 g | O=C1C=2N=CN(C2N=CN1)CCC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C14H11N5O5
reactant | 1-phenyl-1,3,8-triazaspiro[4.5]decane-4-one | 0.9165 mmol, 0.212 g | C1(=CC=CC=C1)N1CNC(C12CCNCC2)=O | C13H17N3O
reactant | dimethylsulfoxide | 2 ml | CS(=O)C | C2H6OS
product | 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)-1-(1-phenyl-4-oxo-1,3,8-triazaspiro[4.5]dec-8-yl)-propanone | Yield: 90% | O=C1C=2N=CN(C2N=CN1)CC(CN1CCC2(C(NCN2C2=CC=CC=C2)=O)CC1)=O | C21H23N7O3
